US06136823
Synthesis of 7-Amino-1-(5-amino-2,4-difluorophenyl)-6-methoxy-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
12N Hydrochloric acid (2 ml) was added to ethyl 7-amino-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-6-methoxy-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate, and the mixture was heated under reflux for 3 hours. After the reaction mixture was allowed to cool, solids deposited were collected by filtration, washed successively with water and ethanol and then dried to obtain the title compound (52 mg) as a yellow powder.

reactant | Hydrochloric acid | 12N, 2 ml | Cl | ClH
reactant | ethyl 7-amino-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-6-methoxy-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | NC1=C(C=C2C(C(=CN(C2=C1C)C1=C(C=C(C(=C1)NC(=O)OC(C)(C)C)F)F)C(=O)OCC)=O)OC | C25H27F2N3O6
product | 7-Amino-1-(5-amino-2,4-difluorophenyl)-6-methoxy-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 52 mg | NC1=C(C=C2C(C(=CN(C2=C1C)C1=C(C=C(C(=C1)N)F)F)C(=O)O)=O)OC | C18H15F2N3O4
